US05101048
Preparation of 2-acetylphenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside (Example 29a)
If the procedure described in Preparation LXXXIII is followed starting from 3.45 g (25.3.10-3 mol) of 1-(2-hydroxyphenyl)ethanone, 6 g (16.9.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide, 3 g (17.10-3 mol) of silver imidazolate and 4.6 g (33.7.10-3 mol) of zinc chloride in 90 ml of methylene chloride and 30 ml of acetonitrile, 0.92 g (yield: 13.5%) of the expected product is obtained after purification by chromatography on silica gel using a toluene/ethyl acetate mixture (6/1 v/v) as the eluent, and crystallization from ether.

reactant | 1-(2-hydroxyphenyl)ethanone | 3.45 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | 2,3,4-tri-O-acetyl-5-thio-D-xylopyranosyl bromide | 6 g | C(C)(=O)O[C@H]1C(SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
catalyst | silver imidazolate | 17.10-3 mol, 3 g | [N-]1C=NC=C1.[Ag+]
catalyst | zinc chloride | 4.6 g | [Cl-].[Zn+2].[Cl-]
product | 2-acetylphenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 0.92 g, yield: 13.5% | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC=C2)C(C)=O)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H22O8S
